* Z:\mnt\spice-netlists\LT8410.asc
R1 N003 N004 604K
V1 IN 0 3.6
L1 IN N001 100µ
C1 N002 0 .1µ
C2 OUT 0 .1µ
Rload OUT 0 10K
R2 N004 0 412K
C3 N003 0 .001µ
XU2 IN IN 0 N001 OUT N002 N003 N004 LT8410
.tran 1.5m startup
* LT8410, Ultralow Power Boost Converter with Output Disconnect\nInput: 3.6V       Output: 16V @ 1.6mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2009 Linear Technology Inc. All rights reserved.
.lib LT8410.sub
.backanno
.end
